US05874598
Synthesis of 2β-(3-hydroxypropoxy)-1α,3β-dihydroxy-5,7-cholestadiene
A mixture of 275 mg (6.9×10-4 mol) of 1α,2α-epoxy-3β-hydroxy-5,7-cholestadiene, 4 ml (5.5×10-2 mol) of 1,3-propanediol, and 258 mg (2.1×10-3 mol) of potassium t-butoxide was stirred in an argon atmosphere at 110° C. (bath temperature) for 4.5 hours. The reaction mixture was poured into water, and the resulting mixture was extracted twice with diethyl ether and washed three times with water. Sodium chloride was added to the aqueous layer, and the mixture was extracted twice with ethyl acetate and washed once with a saturated aqueous sodium chloride solution. After drying the combined organic layer over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and the resulting residue was purified by flash column chromatography (silica gel:dichloro-methane:ethanol=10:1) to obtain 229 mg (70% yield) of the titled compound as a white powder.

reactant | 1α,2α-epoxy-3β-hydroxy-5,7-cholestadiene | 6.9×10-4 mol, 275 mg | O1[C@H]2[C@@H]1[C@@H](CC1=CC=C3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@@]21C)C)O | C27H42O2
reactant | 1,3-propanediol | 5.5×10-2 mol, 4 ml | C(CCO)O | C3H8O2
reactant | potassium t-butoxide | 2.1×10-3 mol, 258 mg | CC(C)([O-])C.[K+]
solvent | water | O | H2O
product | 2β-(3-hydroxypropoxy)-1α,3β-dihydroxy-5,7-cholestadiene | 229 mg, 70% yield | OCCCO[C@@H]1[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2([C@H]1O)C)C)O | C30H50O4
